US06297258B1
To a solution of 0.56 g (3.54 mmol) of 4-(2-methoxy-ethoxy)-but-2-ynoic acid and 0.46 g (3.4 mmol) of isobutyl chloroformate in 12 ml of tetrahydrofuran was added at 0° C. with stirring 0.36 g (3.54 mmol) of N-methylmorpholine. After 15 min, 1.0 g (2.95 mmol) of 6-amino-4-[(3-bromophenyl)amino]-quinoline-3-carbonitrile was added. After stirring 3 hr at 0° C. and 17 hr at room temperature, the mixture was poured into a saturated solution of sodium bicarbonate. The mixture was extracted with ethyl acetate and the organic layer was dries over magnesium sulfate. The solvent was remove and the residue was purified by chromatography on silica gel eluting with chloroform-ethyl acetate mixtures to give 0.53 g of 4-(2-Methoxy-ethoxy)-but-2-ynoic acid[4-(3-bromo-phenylamino)-3-cyano-quinolin-6-yl]-amide as a yellow powder: mass spectrum (electrospray, m/e,): M+H 480.9.

reactant | 4-(2-methoxy-ethoxy)-but-2-ynoic acid | 3.54 mmol, 0.56 g | COCCOCC#CC(=O)O | C7H10O4
reactant | isobutyl chloroformate | 3.4 mmol, 0.46 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methylmorpholine | 3.54 mmol, 0.36 g | CN1CCOCC1 | C5H11NO
reactant | 6-amino-4-[(3-bromophenyl)amino]-quinoline-3-carbonitrile | 2.95 mmol, 1.0 g | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)Br | C16H11BrN4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | 4-(2-Methoxy-ethoxy)-but-2-ynoic acid[4-(3-bromo-phenylamino)-3-cyano-quinolin-6-yl]-amide | 0.53 g | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC=C(C=C12)NC(C#CCOCCOC)=O)C#N | C23H19BrN4O3
